US07696223B2
d) 2,3-Dibromo-7-cyano-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 105(a) from 2,3,7-tribromo-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and CuCN. The title compound, ESI MS (m/z): 494 (M+H)+.

reactant | 2,3,7-tribromo-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2Br)Br)C2=CC=C(C=C2)OC)O | C17H13Br3N2O4
reactant | CuCN | C(#N)[Cu]
product | 2,3-Dibromo-7-cyano-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Br)Br)C2=CC=C(C=C2)OC)O | C18H13Br2N3O4
